US05204326
Preparation of Boc-Gln-Glu(OcHex)-Leu-OH
21.0 Grams of Boc-Gln-Glu(OcHex)-Leu-OBzl was dissolved in 200 ml of THF, and the solution was subjected to catalytic reduction in the presence of 2.00 g of 5%-palladium-carbon as the catalyst. After the reduction was finished, the catalyst was removed by filtration, and the filtrate was concentrated under reduced pressure. To the residue thus obtained was added diethyl ether-n-hexane to crystallize to obtaine 17.86 g (yield: 98.5%) of the above-mentioned objective product.

reactant | Boc-Gln-Glu(OcHex)-Leu-OBzl | N([C@@H](CCC(N)=O)C(=O)N[C@@H](CCC(OC1CCCCC1)=O)C(=O)N[C@@H](CC(C)C)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C34H52N4O9
reactant | diethyl ether n-hexane | C(C)OCC.CCCCCC
solvent | THF | 200 ml | C1CCOC1 | C4H8O
catalyst | palladium-carbon | [C].[Pd]
product | Boc-Gln-Glu(OcHex)-Leu-OH | 17.86 g, yield: 98.5% | N([C@@H](CCC(N)=O)C(=O)N[C@@H](CCC(OC1CCCCC1)=O)C(=O)N[C@@H](CC(C)C)C(=O)O)C(=O)OC(C)(C)C | C27H46N4O9
